US06319915B1
2-Phenyl4-(2-methylphenyl)cyclohexanone oxime:
2-Phenyl-4-(2-methylphenyl)cyclohexanone, 13.1 grams (49.5 mmol), was dissolved in 200 mL methanol/methylene chloride, followed by 11.1 mL (79.3 mmol) triethylamine and 5.5 grams (79.3 mmol) hydroxylamine hydrochloride. The solution was stirred at room temperature for 48 hours, the solvent evaporated, and the resulting solid washed with methanol and dried to afford 8.2 grams (59%) of a yellow solid.

reactant | 2-Phenyl-4-(2-methylphenyl)cyclohexanone | C1(=CC=CC=C1)C1C(CCC(C1)C1=C(C=CC=C1)C)=O | C19H20O
reactant | triethylamine | 79.3 mmol, 11.1 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 79.3 mmol, 5.5 grams | Cl.NO
solvent | methanol methylene chloride | 200 mL | CO.C(Cl)Cl
product | 2-Phenyl4-(2-methylphenyl)cyclohexanone oxime | 8.2 grams, 59% | C1(=CC=CC=C1)C1C(CCC(C1)C1=C(C=CC=C1)C)=NO | C19H21NO
